US08981085B2
A mixture of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-chloro-4-fluorobenzamide (240 mg, 0.621 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (373 mg, 1.86 mmol) in n-BuOH (3 mL) was stirred at 155° C. for 16 hours in a sealed tube. The reaction was then cooled to room temperature and concentrated in vacuo. The resulting residue was purified by reverse phase HPLC (Gilson) to provide (R)-tert-butyl 1-(5-bromo-3-(3-chloro-4-fluorobenzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (110 mg, 31% yield).

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-chloro-4-fluorobenzamide | 0.621 mmol, 240 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CC(=C(C=C2)F)Cl)=O)F | C14H7BrClF2N3O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.86 mmol, 373 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(3-chloro-4-fluorobenzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 110 mg, 31% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CC(=C(C=C2)F)Cl)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C24H26BrClFN5O3
